US04329347
5-Bromo-6-(4-phenylmercapto-butoxy)-carbostyril
Prepared analogous to Example 122 from 5-bromo-6-(4-bromo-butoxy)-carbostyril [prepared by bromination of 6-(4-bromo-butoxy)-carbostyril] and thiophenol.

reactant | 5-bromo-6-(4-bromo-butoxy)-carbostyril | BrC1=C2C=CC(NC2=CC=C1OCCCCBr)=O | C13H13Br2NO2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 5-Bromo-6-(4-phenylmercapto-butoxy)-carbostyril | BrC1=C2C=CC(NC2=CC=C1OCCCCSC1=CC=CC=C1)=O | C19H18BrNO2S
